US07973169B2
26) 2-Diphenylacetylamino-thiazole-4-carboxylic acid ethyl ester
2-Amino-thiazole-4-carboxylic acid methyl ester (32 mg, 0.20 mmol) and diphenyl-acetic acid (42 mg, 0.20 mmol) were dissolved in N,N-dimethylformamide (1 mL) containing triethylamine (84.1 μL, 0.600 mmol). O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (84 mg, 0.22 mmol) was added and the solution was allowed to stir for 16 hours. The crude product was purified by reverse-phase preparative liquid chromatography (19 mg, 0.052 mmol, 26%). ESI-MS m/z calc. 366.1, found 367.1 (M+1)+ Retention time 3.34 minutes.

reactant | 2-Amino-thiazole-4-carboxylic acid methyl ester | 0.20 mmol, 32 mg | COC(=O)C=1N=C(SC1)N | C5H6N2O2S
reactant | diphenyl-acetic acid | 0.20 mmol, 42 mg | C1(=CC=CC=C1)C(C(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | triethylamine | 0.600 mmol, 84.1 μL | C(C)N(CC)CC | C6H15N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.22 mmol, 84 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2-Diphenylacetylamino-thiazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(SC1)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C20H18N2O3S
